US07304081B2
(1R)-1′-[(1-{4-[5-(Trifluoromethyl)-1,3,4-oxadiazol-2-yl]phenyl}cyclopropyl)carbonyl]-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
A suspension of (1R)-1′-({1-[4-(1H-tetrazol-5-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (30.0 mg, 0.0000747 mol) in trifluoroacetic anhydride (0.50 mL, 0.0035 mol) in a sealed tube was heated at 100° C. for 1 hour with stirring. LCMS showed the reaction was complete. The product from the reaction mixuter was isolated and purified by prep-HPLC as a colorless solid (24.0 mg, 68% in yield). (M+H+)=470.1.

reactant | (1R)-1′-({1-[4-(1H-tetrazol-5-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.0000747 mol, 30.0 mg | N1N=NN=C1C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C22H19N5O3
reactant | trifluoroacetic anhydride | 0.0035 mol, 0.50 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | (1R)-1′-[(1-{4-[5-(Trifluoromethyl)-1,3,4-oxadiazol-2-yl]phenyl}cyclopropyl)carbonyl]-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | FC(C1=NN=C(O1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O)(F)F | C24H18F3N3O4
